US07754744B2
Step 1: 4-(8-Chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 2,8-dichloro-quinoline (3.00 g, 15.15 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (3.64 g, 18.18 mmol, 1.2 equiv; commercially available) in toluene (35 mL) was added KOtert-Bu (2.38 g, 21.21 mmol, 1.4 equiv), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (0.38 g, 0.61 mmol, 0.04 equiv) and tris(dibenzylideneacetone)-dipalladium(0) (0.31 g, 0.30 mmol, 0.02 equiv). The reaction mixture was stirred at 80° C. for 18 h, concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% triethylamine)/ethyl acetate providing 1.73 g (31%) of the title compound. 1H NMR (300 MHz, CDCl3): δ1.37-1.51 (m, 2H), 1.48 (s, 9H), 2.17-2.22 (m, 2H), 2.96-3.04 (m, 2H), 4.07-4.17 (m, 3H), 4.76 (d, J=7.0 Hz, 1H), 6.64 (d, J=8.9 Hz, 1H), 7.11 (t, J=7.8 Hz, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.80 (d, J=8.9 Hz, 1H). MS (ISP): 362.5 [M+H]+.

reactant | 2,8-dichloro-quinoline | ClC1=NC2=C(C=CC=C2C=C1)Cl | C9H5Cl2N
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 21.21 mmol, 2.38 g, 1.4 equiv | O([K])C(C)(C)C
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.61 mmol, 0.38 g, 0.04 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.30 mmol, 0.31 g, 0.02 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(8-Chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=C(C=CC=C2C=C1)Cl | C19H24ClN3O2
